US08710178B2
(S)-2-[(S)-3-(4-Allyloxy-phenyl)-2-tert-butoxycarbonylamino-propionylamino]-4-methyl-pentanoic acid methyl ester (1)
N—BOC—O-allyl-tyrosine (obtained from NeoMPS, San Diego, Calif. 92126, USA) (10.0 g, 32.5 mmol), HATU (12.4 g, 35.8 mmol) and leucine methyl ester hydrochloride (5.90 g, 65.0 mmol) were dissolved in anhydrous DMF (50 mL). DIPEA (22.7 mL, 130 mmol) was added and the reaction mixture was stirred at rt for 18 h before being partitioned between EtOAc and 1M hydrochloric acid. The organic phase was then washed sequentially with 1M hydrochloric acid and brine before being dried (MgSO4), filtered and concentrated in vacuo. Purification was achieved using flash chromatography, eluting with a gradient of 1/5 EtOAc/(50/70) petroleum ether to 100% EtOAc to yield a white solid, 8.45 g, 58%. Rf=0.33 (1/3 EtOAc/(50/70) petroleum ether).

reactant | N—BOC—O-allyl-tyrosine | 32.5 mmol, 10.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC=C)C(=O)O | C17H23NO5
reactant | HATU | 35.8 mmol, 12.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | leucine methyl ester hydrochloride | 65.0 mmol, 5.90 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | DIPEA | 130 mmol, 22.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-[(S)-3-(4-Allyloxy-phenyl)-2-tert-butoxycarbonylamino-propionylamino]-4-methyl-pentanoic acid methyl ester | COC([C@H](CC(C)C)NC([C@H](CC1=CC=C(C=C1)OCC=C)NC(=O)OC(C)(C)C)=O)=O | C24H36N2O6
